US05367077
A mixture of 3-mesyloxy-1-methyl-1-azaspiro[4.5]decane-2,8-dione ethylene ketal (1.28 g), sodium iodide (1.8 g) and acetone (20 mL) was refluxed with stirring for 90 min. The solvent was removed in vacuo and the residue was dissolved in methylene chloride and washed with water. After drying over magnesium sulfate the solvent was removed in vacuo. The residue was dissolved in toluene (20 mL) and treated with tri-n-butyltin hydride (1.75 g) and AIBN (20 mg) and the resulting mixture was heated at 110° C. for 1 h. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate as the eluent. The resulting product was stirred with a mixture of water (5 mL), 3N HCl (1.5 mL) and acetic acid (2 mL) for 16 h. The resulting product was extracted 3 times with methylene chloride, washed with sodium bicarbonate solution, dried over magnesium sulfate and the solvent was removed in vacuo to afford 1 -methyl-1-azaspiro[4.5]decane-2,8-dione as an oil.

reactant | 3-mesyloxy-1-methyl-1-azaspiro[4.5]decane-2,8-dione ethylene ketal | 1.28 g | C1COC2(N(C3(CC2OS(=O)(=O)C)CCC(CC3)=O)C)O1 | C13H21NO6S
reactant | sodium iodide | 1.8 g | [I-].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1 -methyl-1-azaspiro[4.5]decane-2,8-dione | CN1C(CCC12CCC(CC2)=O)=O | C10H15NO2
